US07858598B2
To a mixture of compound p-methoxyphenol (3 g, 24.2 mmol), anhydrous magnesium dichloride (3.48 g, 37.0 mmol) and dry triethylamine (12.8 mL, 92.1 mmol) in 100 mL of acetonitrile was added dry paraformaldehyde (5 g, 167 mmol). The reaction mixture was refluxed for 8 hours and cooled down to room temperature. Then the reaction mixture was poured into 5% HCl (300 mL) and extracted with diethyl ether (200 mL) for three times. The combined organic layers were dried over anhydrous Na2SO4, filtered, and evaporated. The residue was purified by flash column chromatography (20% EtOAc in n-hexane) to yield 3.35 g of 2-hydroxy-5-methoxybenzaldehyde (91% yield).

reactant | p-methoxyphenol | 24.2 mmol, 3 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | magnesium dichloride | 37.0 mmol, 3.48 g | [Cl-].[Cl-].[Mg+2]
reactant | triethylamine | 92.1 mmol, 12.8 mL | C(C)N(CC)CC | C6H15N
reactant | paraformaldehyde | 167 mmol, 5 g | C=O | CH2O
reactant | HCl | 300 mL | Cl | ClH
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-hydroxy-5-methoxybenzaldehyde | 3.35 g, 91% yield | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
